US04777256
5-Bromo-1-butyl-N-(2,6-diethylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide (compound 1)
A mixture of 3.0 g (8.5 mmol, m.p. 110°-112° C.) of 1-butyl-N-(2,6-diethylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide and 1.7 g (9.6 mmol) of N-bromosuccinimide was dissolved in 100 ml of dichloromethane, and the mixture was stirred for a day at room temperature. The reaction mixture, transferred to a separatory funnel, was washed with water, saturated sodium bicarbonate and water. The organic layer was dried and concentrated in a known manner to give a crystalline residue, and the residue was recrystallized from a mixture of ethyl acetate and hexane, affording 2.25 g of the title compound having m.p. 158°-160.5° C.

reactant | 1-butyl-N-(2,6-diethylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide | 8.5 mmol, 3.0 g | C(CCC)N1C(=C(C(C=C1C)=O)C(=O)NC1=C(C=CC=C1CC)CC)C | C22H30N2O2
reactant | N-bromosuccinimide | 9.6 mmol, 1.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-Bromo-1-butyl-N-(2,6-diethylphenyl)-1,4-dihydro-2,6-dimethyl-4-oxo-3-pyridinecarboxamide | 2.25 g | BrC=1C(C(=C(N(C1C)CCCC)C)C(=O)NC1=C(C=CC=C1CC)CC)=O | C22H29BrN2O2
